Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Cherry Flavor / shellfish derived / oxycodone
 
Attending: ___.
 
Chief Complaint:
post ERCP monitoring
 
Major Surgical or Invasive Procedure:
ERCP ___
 
History of Present Illness:
___ with history of HTN and prediabetes s/p ERCP on ___ with 
sphincterotomy and sludge extraction now admitted to HMED for 
postop monitoring.

Patient reports that over the last couple of weeks he had 
postprandial nausea and vomiting, as well as cramping epigastric 
pain. He also reports that initially he had constipation with 
light colored stools, dark urine, and pruritis which all have 
resolved. His PCP checked LFTs which were elevated, and an 
abdominal US revealed gallstones. Thus he was referred to ERCP.

On ___ ERCP revealed a mildly dilated CBD with a filling 
defect in the lower third of the duct c/w sludge. A 
sphincterotomy was performed with extraction of sludge. Postop, 
he reports feeling the same as prior to the procedure - some 
initial nausea which has faded, and a mild cramping pain in the 
epigastric area. He denies fevers, chills.

ROS: As per HPI. Also denies diarrhea or constipation, chest 
pain or SOB. Comprehensive 10 point ROS is otherwise negative.
 
Past Medical History:
HTN
HLD - patient denies
Beta thalassemia trait
Pre-diabetes
left shoulder pain
vertigo
gall stones
 
Social History:
___
Family History:
Colon cancer, HTN.
 
Physical Exam:
Admission exam:
VS: 97.9, 133/789, 52, 18, 100% on RA
GEN: AAOx3, NAD, resting comfortably in bed
HENT: atraumatic, MMM, OP clear
Eyes: EOMI, no scleral icterus, noninjected
Neck: supple
CV: RRR, no m/g/r
Resp: CTAB, no w/r/r
GI: soft, nd, nt, nabs
GU: no foley
Extr: wwp, normal tone and bulk, no edema
Neuro: CNs intact, normal strength, full sensation
Psych: appropriate mood and affect
Skin: no jaundice or rashes

Discharge exam:
Vitals: 97.8, 138/84, 52, 16, 100% on RA
Gen: NAD, lying in bed comfortably
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, no MRG, no edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. CNs II-XII intact. MAEE.
Psych: Full range of affect
 
Pertinent Results:
Admission labs:
___ 10:00AM   UREA N-12 CREAT-1.2 SODIUM-138 POTASSIUM-5.3* 
CHLORIDE-100 TOTAL CO2-26 ANION GAP-17
___ 10:00AM   estGFR-Using this
___ 10:00AM   ALT(SGPT)-76* AST(SGOT)-46* ALK PHOS-100 
AMYLASE-49 TOT BILI-0.5 DIR BILI-0.1 INDIR BIL-0.4
___ 10:00AM   LIPASE-25
___ 10:00AM   WBC-4.7 RBC-5.81 HGB-13.1* HCT-41.0 MCV-71* 
MCH-22.5* MCHC-32.0 RDW-17.2* RDWSD-41.8
___ 10:00AM   PLT COUNT-286
___ 10:00AM   ___ PTT-32.1 ___

Micro:
none

Imaging:
Abdominal US
1. Numerous gallstones.
2. Common duct distended at 7 mm but a discrete CBD stone not 
identified. No intrahepatic biliary dilatation.
3. Right kidney lower pole cyst with single thin septation, 
Bosniak 2 cyst. No followup needed.

ERCP ___
Impression: 
•Normal major papilla. 
•Cannulation of the biliary duct was successful and deep with a 
sphincterotome using a free-hand technique.  
•There was a filling defect that appeared like sludge in the 
lower third of the common bile duct. 
•There was mild upstream dilation of the CBD to 10mm. 
•A sphincterotomy was performed in the 12 o'clock position using 
a sphincterotome over an existing guidewire.
•Balloon sweeps were performed of the common bile duct which 
yielded sludge but no frank stone. 
•Further sweeps were performed until no debris was noted. 
Completion occlusion cholangiogram revealed no further filling 
defects.  

Recommendations: •Admit to hospital for monitoring
•NPO overnight with aggressive IV hydration with LR at 200 cc/hr
•If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated
•No aspirin, Plavix, NSAIDS, Coumadin for 5 days.
•Continue with antibiotics - Ciprofloxacin 500mg BID x 5 days.
•Follow-up with Dr. ___ as previously scheduled.
•Follow-up with Dr. ___ as previously scheduled for 
cholecystectomy.
•Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call ERCP 
fellow on call ___
 
Discharge labs:
___ 05:30AM BLOOD WBC-4.1 RBC-5.26 Hgb-11.5* Hct-36.5* 
MCV-69* MCH-21.9* MCHC-31.5* RDW-16.0* RDWSD-39.8 Plt ___
___ 05:30AM BLOOD Glucose-98 UreaN-11 Creat-0.9 Na-139 
K-4.0 Cl-106 HCO3-26 AnGap-11
___ 05:30AM BLOOD ALT-50* AST-23 AlkPhos-82 TotBili-0.8
___ 05:30AM BLOOD Calcium-9.1 Phos-3.3 Mg-1.___ with history of HTN and prediabetes with subacute course of 
postprandial n/v and epigastric pain, found to have elevated 
LFTs and gallstones on outpatient workup, now s/p ERCP on ___ 
with sphincterotomy and sludge extraction - admitted to ___ for 
post op monitoring. The patient did well overnight with no 
events. He was made NPO and put on IVF and ciprofloxacin. In the 
morning, he denied n/v or abdominal pain, and his LFTs had 
trended down. His diet was advanced to clears, which he 
tolerated well. He then ate a regular diet for lunch. He was 
discharged on cipro 500mg Q12H for 5 days total. He was 
instructed to follow up with his PCP and Dr. ___ 
evaluation of elective cholecystectomy. 

All other chronic medical issues remained stable. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Lisinopril 20 mg PO DAILY 

 
Discharge Medications:
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every 12 hours 
Disp #*8 Tablet Refills:*0
4. Amlodipine 5 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
Nausea
Cholelithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ were admitted to ___ for post ERCP monitoring. ___ did 
well overnight with no complications. It is now safe for ___ to 
leave the hospital. 
-please continue cipro 500mg every 12 hours for 4 more days
-no aspirin, blood thinners, or NSAIDS for 5 days
-follow up with Dr. ___ as previously scheduled
-follow up with Dr. ___ as previously scheduled for 
consideration of surgery to remove your gall bladder
-if any abdominal pain, fever, jaundice, gastrointestinal 
bleeding please call ERCP fellow on call ___

 
Followup Instructions:
___